US08106215B2
(1S,2S,5R)-2-{[6-Methyl-(imidazo[2,1-b]thiazole-5-carbonyl)-amino]-methyl}-7-methyl-3-aza-bicyclo[3.3.0]octane-3-carboxylic acid tert.-butyl ester
prepared by reaction of (1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester with commercially available 6-methyl-imidazo[2,1-b]thiazole-5-carboxylic acid.

reactant | (1S,2S,5R)-2-aminomethyl-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]2CC(C[C@H]2C1)C)CN | C14H26N2O2
reactant | 6-methyl-imidazo[2,1-b]thiazole-5-carboxylic acid | CC=1N=C2SC=CN2C1C(=O)O | C7H6N2O2S
product | (1S,2S,5R)-2-{[6-Methyl-(imidazo[2,1-b]thiazole-5-carbonyl)-amino]-methyl}-7-methyl-3-aza-bicyclo[3.3.0]octane-3-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]2CC(C[C@H]2C1)C)CNC(=O)C1=C(N=C2SC=CN21)C | C21H30N4O3S
